Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Fish derived
 
Attending: ___.
 
Chief Complaint:
Pancreatic mass
 
Major Surgical or Invasive Procedure:
___: Diagnostic laparoscopy, port-a-cath placement.

 
History of Present Illness:
The patient is a ___ female with newly diagnosed 
pancreatic head mass concerning for adenocarcinoma s/p biliary 
stent placement present today for diagnostic laparoscopy and PAC 
placement. Prior surgery patient was evaluated by Dr. ___ in 
her ___ ___ clinic. 
 
Past Medical History:
-Hypercholesteroemai
-Osteopenia
-Allergic rhinitis
- Knee arthritis
- Varciose veins
-Invasive ductal carcinoma - grade III, left breast mass, 
er/pr-posite her2neu neg, fna left ax node positive, ___ 
breast lumpectomy, ___ nodes pos, ___ to ___ was on arimdex
 
Social History:
___
Family History:
brother with colon cancer
 
Physical Exam:
Prior Discharge:
VS: 98.2, 116/80, 100, 18, 98%RA
GEN: Pleasant with NAD
CV: RRR, no m/r/g
PULM: CTAB
ABD: Laparoscopic incisions open to air with dermabond and 
c/d/i. Left subclavian incision open to air with dermabond and 
with minimal erythema.
EXTR: Warm, no c/c/e 
 
Pertinent Results:
___ 09:04AM BLOOD WBC-14.1*# RBC-4.08* Hgb-13.1 Hct-40.3 
MCV-99* MCH-32.2* MCHC-32.5 RDW-12.5 Plt ___

___ CXR:
As compared to the previous radiograph, the tip of the 
Port-A-Cath 
has been slightly pulled back.  The tip now projects over the 
right atrium.  
No evidence of complications.  Low lung volumes.  Moderate 
cardiomegaly 
without fluid overload but with an atelectasis at the perihilar 
right lung region. 

 
Brief Hospital Course:
The patient with newly diagnosed with pancreatic head mass s/p 
FNA consistent with adenocarcinoma was admitted to the Surgical 
Oncology Service for elective diagnostic laparoscopy. On 
___, the patient underwent diagnostic laparoscopy and 
port-a-cath placement, which went well without complication (OP 
Note unable upon discharge). After a brief, uneventful stay in 
the PACU, the patient arrived on the floor NPO tolerating 
clears, on IV fluids, with a foley catheter and PO Tylenol for 
pain control. The patient was hemodynamically stable.
Post-operative pain was initially well controlled with PO 
Tylenol with PO Vicodin for breakthrough pain. Diet was 
progressively advanced as tolerated to a regular diet by POD# 1 
and was well tolerated. The patient subsequently voided without 
problem. 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
ASA 81', fluticasone 50', atorvastatin 20', epi pen PRN, 
loratadine 10' PRN, co Q10-Vit E 100-5', naproxen 250'', 
omeprazole 20 ER', mucinex', glucosamine-chondroitin', CaCO3 
650', MVI'  

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain / fever 
Please do not exceed 4000 mg/day 
2. Aspirin 81 mg PO DAILY 
3. ClonazePAM 0.25 mg PO ONCE MR1 Sleep/anxiety Duration: 1 Dose 

4. Docusate Sodium 100 mg PO BID 
5. Hydrocodone-Acetaminophen (5mg-500mg) 1 TAB PO ONCE Duration: 
1 Dose 
Please do not exceed 4000 mg of Tylenol per day 
6. Omeprazole 20 mg PO DAILY 
7. Atorvastatin 20 mg PO DAILY 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Calcium 600 (calcium carbonate) 600 mg (1,500 mg) oral QD 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatic head mass 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the surgery service at ___ for diagnostic 
laparoscopy and port-a-cath placement. You have done well in the 
post operative period and are now safe to return home to 
complete your recovery with the following instructions:
.
Call Dr. ___ office at ___ if you have any 
questions or concerns.
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site of fever > 101.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.

 
Followup Instructions:
___